US09163008B2
To a mixture of (S)-methyl 2-((4-carbamoyl-6-chloropyrimidin-2-yl)amino)propanoate (0.642 g, 2.48 mmol) in dioxane (12.5 mL) was added 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.861 g, 2.74 mmol), 2M aqueous Na2CO3 (2.50 mL, 5.00 mmol), and PdCl2(dppf) (0.105 g, 0.129 mmol). The reaction vessel was flushed with argon, sealed, and heated at 80° C. for 5 h. After cooling, the reaction mixture was evaporated in vacuo and the residue chromatographed over silica gel with 20-60% acetone in hexanes. The product fractions were evaporated in vacuo to give (S)-methyl 2-((4-carbamoyl-6-(4-(4-fluorophenoxy)phenyl)pyrimidin-2-yl)amino)propanoate as a tan-yellow glass (0.911 g, 2.22 mmol, 89% yield). LC/MS: m/z=411.2 [M+H]+.

reactant | (S)-methyl 2-((4-carbamoyl-6-chloropyrimidin-2-yl)amino)propanoate | 2.48 mmol, 0.642 g | C(N)(=O)C1=NC(=NC(=C1)Cl)N[C@H](C(=O)OC)C | C9H11ClN4O3
reactant | 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.74 mmol, 0.861 g | FC1=CC=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C18H20BFO3
reactant | Na2CO3 | 5.00 mmol, 2M, 2.50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 12.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.129 mmol, 0.105 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-methyl 2-((4-carbamoyl-6-(4-(4-fluorophenoxy)phenyl)pyrimidin-2-yl)amino)propanoate | 2.22 mmol, 0.911 g, 89% yield | C(N)(=O)C1=NC(=NC(=C1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)N[C@H](C(=O)OC)C | C21H19FN4O4
